US08669234B2
2-(3-Methoxycarbonylamino-2-oxo-piperidin-1-yl)-propionic acid was prepared by method 801 substituting 2-(3-methoxycarbonylamino-2-oxo-piperidin-1-yl)-propionic acid ethyl ester for 4-oxo-hexahydro-pyrrolo[1,2-a]pyrazine-2,6-dicarboxylic acid 6-ethyl ester 2-methyl ester. C10H16N2O5 calculated 244.1 observed [M+1]+245.1; rt=1.53 min.

reactant | 2-(3-methoxycarbonylamino-2-oxo-piperidin-1-yl)-propionic acid ethyl ester | C(C)OC(C(C)N1C(C(CCC1)NC(=O)OC)=O)=O | C12H20N2O5
reactant | 4-oxo-hexahydro-pyrrolo[1,2-a]pyrazine-2,6-dicarboxylic acid 6-ethyl ester 2-methyl ester | COC(=O)N1CC2N(C(C1)=O)C(CC2)C(=O)OCC | C12H18N2O5
product | 2-(3-Methoxycarbonylamino-2-oxo-piperidin-1-yl)-propionic acid | COC(=O)NC1C(N(CCC1)C(C(=O)O)C)=O | C10H16N2O5
